* D:\daten\oldcomputers\beneater\schematics\keyboard\simulate_auto_manula_resets.asc
A1 N001 N002 0 0 0 N003 0 0 OR
A2 N003 N006 0 0 0 N002 0 0 OR
V1 N006 0 PULSE(1 0 0 1ns 1ns 1ms 2ms)
V2 N001 0 PULSE(0 1 0 1ns 1ns 1ms 2ms)
R1 N005 0 10k
R2 N005 0 10k
C1 N004 N003 10n
C2 N007 N002 10n
D1 N004 N005 D
D2 N007 N005 D
R3 N007 0 10k
R4 N004 0 10k
.model D D
.lib C:\Users\Besitzer\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 8ms
.backanno
.end
